US03991200
To a solution of 8.5 grams (0.055 mole) of 1-methyl-5-nitro-2-imidazolecarboxaldehyde in 50 ml. of ethanol is added a solution of 5.0 grams (0.056 mole) of 4-methylsemicarbazide in 25 ml. of ethanol and 10 ml. of water containing 2-4 drops of concentrated hydrochloric acid. The resulting solution is heated at 60°-70° C. until a yellow solid starts to separate and then stored at 0° C. for 1 hour; 12.2 grams (98%) of 1-methyl-5-nitro-2-imidazolecarboxaldehyde-4-methylsemicarbazone is obtained melting at 221°-223° C.

reactant | 1-methyl-5-nitro-2-imidazolecarboxaldehyde | 0.055 mole, 8.5 grams | CN1C(=NC=C1[N+](=O)[O-])C=O | C5H5N3O3
reactant | 4-methylsemicarbazide | 0.056 mole, 5.0 grams | CNC(NN)=O | C2H7N3O
reactant | hydrochloric acid | Cl | ClH
catalyst | water | 2-4 drops | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-5-nitro-2-imidazolecarboxaldehyde-4-methylsemicarbazone | 12.2 grams, 98% | CNC(NN=CC=1N(C(=CN1)[N+](=O)[O-])C)=O | C7H10N6O3
